US08247430B2
4-methyl-6-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-pyrimidin-2-ylamine
To a solution of (S)-(−)-1-methyl-2-pyrrolidine (320 mg, 2.78 mmol) in dry THF (10 mL) at 0° C. was added NaH (167 mg, 4.16 mmol). After stirred at RT for 1 h, 2-amino-4-chloro-6-methylpyrimidine (600 mg, 4.16 mmol) in dry THF (10 mL) was added dropwise via the addition funnel. The resulting mixture was heated to reflux under Ar gas for 20 h. The reaction was cooled to RT and quenched with sat. NH4Cl. Solvent was removed. The residue was partitioned between H2O and CHCl3. The organic layer was washed with H2O, brine, dried over MgSO4, and evaporated to dryness. This crude compound was purified in column eluted with CH2Cl2:MeOH=95%:5% to yield the title compound. MS m/z: 223.2 (M+H). Calc'd. for C12H20N4—222.2.

reactant | NaH | 4.16 mmol, 167 mg | [H-].[Na+]
reactant | 2-amino-4-chloro-6-methylpyrimidine | 4.16 mmol, 600 mg | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-methyl-6-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-pyrimidin-2-ylamine | CC1=NC(=NC(=C1)CCC1N(CCC1)C)N | C12H20N4
